*BZX55C62 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*62V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C62 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  61.27
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=22.7P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=608U RS=60.6 N=14)
.ENDS